US05340810
5-(4-Bromo-3-methylphenyl)-3-methyl-1,2,4-thiadiazole
A solution of 4-bromo-3-methylbenzenecarbothioamide (1.20 g) in dimethylacetamide dimethyl acetal (2 ml) and dichloromethane (30 ml) was stirred under nitrogen at room temperature for 7 h. The solvent was evaporated in vacuo to give a dark brown oil to which was added hydroxylamine-0-sulphonic acid (0.88 g), methanol (20 ml) and pyridine (0.83 ml) and the mixture stirred at room temperature under nitrogen for 16 h. After evaporation, aqueous potassium carbonate was added and the mixture was extracted with dichloromethane. The combined extracts were dried and evaporated to give a brown residue which was purified by column chromatography on silica eluting with hexane: ethyl acetate (4:1) to give the title compound as an orange solid (0.8 g).

reactant | 4-bromo-3-methylbenzenecarbothioamide | 1.20 g | BrC1=C(C=C(C=C1)C(N)=S)C | C8H8BrNS
reactant | hydroxylamine-0-sulphonic acid | 0.88 g | NOS(=O)(=O)O | H3NO4S
reactant | methanol | 20 ml | CO | CH4O
reactant | pyridine | 0.83 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylacetamide dimethyl acetal | 2 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-(4-Bromo-3-methylphenyl)-3-methyl-1,2,4-thiadiazole | 0.8 g | BrC1=C(C=C(C=C1)C1=NC(=NS1)C)C | C10H9BrN2S
